US08802659B2
To a solution of methyl 2-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanoate (100 mg, 0.25 mmol) in ethanol (10 mL) was added aqueous NaOH (3 mL, 20%, 5.0 eq.) and refluxed for 1 hr. Then the reaction was cooled to 0° C., the pH of the solution was adjusted to 6 with 1 M HCl, concentrated and the residue was dissolved in dichloromethane, washed with water, dried and concentrated to give 2-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanoic acid as a white solid (70 mg, yield: 75%). ESI-MS: 384.1 (M+H)+. HPLC: 97.18%. 1H NMR (400 MHz, CD3OD) δ: 7.88 (s, 1H), 7.83 (d, 1H), 7.73 (d, 1H), 7.49 (dd, 1H), 7.26 (d, 1H), 7.15 (dd, 1H), 4.29-4.38 (m, 3H), 4.04 (q, 1H), 2.25 (d, 2H), 1.90 (d, 2H), 1.60 (d, 3H), 1.36-1.44 (m, 2H), 1.21-1.31 (m, 2H), 1.09-1.15 (m, 1H), 0.89 (s, 9H).

reactant | methyl 2-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanoate | 0.25 mmol, 100 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNC(C(=O)OC)C | C25H35NO3
reactant | NaOH | 3 mL, 5.0 eq. | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanoic acid | 70 mg, yield: 75% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNC(C(=O)O)C | C24H33NO3
